US07776875B2
Preparation of Racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(3-methyl-oxetan-3-ylmethoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)-spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
To a solution of 1-(5-fluoro-2-methyl-phenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene (7.1 mmol) in anhydrous toluene (7 mL) was added E/Z-6-Chloro-3-[5-chloro-2-(3-methyl-oxetan-3-ylmethoxy)-benzylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester (0.7 g, 1.4 mmol). The solution was stirred under Ar in a sealed tube at 140° C. for 3 h. After the solution was cooled to room temperature and concentrated, the residue was purified by chromatography (DCM:CH3OH=50:1) to give crude product. The crude product was purified again by Prep-HPLC to give title compound as a white solid (12 mg).

reactant | 1-(5-fluoro-2-methyl-phenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene | 7.1 mmol | FC=1C=CC(=C(C1)C=NC(=C)O[Si](C)(C)C)C | C13H18FNOSi
reactant | Z-6-Chloro-3-[5-chloro-2-(3-methyl-oxetan-3-ylmethoxy)-benzylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | 1.4 mmol, 0.7 g | C(C)(C)(C)OC(=O)N1C(\C(\C2=CC=C(C=C12)Cl)=C/C1=C(C=CC(=C1)Cl)OCC1(COC1)C)=O | C25H25Cl2NO5
solvent | toluene | 7 mL | C1(=CC=CC=C1)C | C7H8
product | Racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(3-methyl-oxetan-3-ylmethoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)-spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 12 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OCC1(COC1)C)=O)C1=C(C=CC(=C1)F)C)=O | C30H27Cl2FN2O4
